US08802864B2
4′-(3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-1,5-dihydro-4H-1,2,4-triazol-4-yl)-3′-fluoro-4-biphenylcarboxylic Acid
A microwave vial was charged with 4(4-bromo-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.29 mmol), 4-(dihydroxyboranyl)benzoic acid (0.32 mmol), PdCl2(dppf) (0.015 mmol), a solution of K2CO3 (0.73 mmol) in water (1 mL), and 1,4-dioxane (3 mL). The vial was purged with nitrogen, sealed and irradiated in a microwave reactor for 30 min at 130° C. (pressure ˜3-4 bar). Analysis of the crude reaction by LCMS indicated ˜80% conversion to desired product. Re-subjection of the reaction to the microwave at 130° C. for 30 min did not progress the reaction any further as judged by LCMS. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DMSO (3 mL), filtered through a syringe filter, and purified by reverse phase HPLC (10-90% acetonitrile/water+0.1% TFA). The appropriate product fractions were concentrated to remove a majority of the acetonitrile, leaving an aqueous suspension of product which was collected by filtration and dried to constant weight to provide the title product (38 mg, 0.084 mmol, 29% yield) as an off-white solid. MS(ES)+ m/e 451.0 [M+H]+.

reactant | 4(4-bromo-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.29 mmol | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H18BrFN4O2
reactant | 4-(dihydroxyboranyl)benzoic acid | 0.32 mmol | OB(C1=CC=C(C(=O)O)C=C1)O | C7H7BO4
reactant | K2CO3 | 0.73 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.015 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4′-(3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-1,5-dihydro-4H-1,2,4-triazol-4-yl)-3′-fluoro-4-biphenylcarboxylic Acid | C1(CC1)C(=O)N1C[C@@H](CC1)CC1=NNC(N1C1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)O)F)=O | C24H23FN4O4
